datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CCCCCCCCCCCCCCCC[NH+](CCCCCCCCCCCCCCCC)CCn1cc[n+:21]([H:20])c1.Cc1cc([N+](=O)[O-])ccc1[N-:10]N=C(C#N)C#N>>CCCCCCCCCCCCCCCC[NH+](CCCCCCCCCCCCCCCC)CCn1cc[n:21]c1.Cc1cc([N+](=O)[O-])ccc1[N:10](N=C(C#N)C#N)[H:20] 10=20;20,21=21",
"CC/C=C/CC(=O)[O-:10].Cc1cc(-c2ccccc2)nn2c(C[NH+]3CCOCC3)c[n+:21]([H:20])c12>>CC/C=C/CC(=O)[O:10][H:20].Cc1cc(-c2ccccc2)nn2c(C[NH+]3CCOCC3)c[n:21]c12 10=20;20,21=21",
"CCc1cc([O:21][H:20])cc(C)c1Cl.O=C(c1cccc2ccc(O)cc12)[O-:10]>>CCc1cc([O-:21])cc(C)c1Cl.O=C(c1cccc2ccc(O)cc12)[O:10][H:20] 10=20;20,21=21",
"Cc1ccc([N+](=O)[O-])cc1/C(=N/CCC[N+:21](C)(C)[H:20])c1ccccc1.Nc1ccc2c(ccc(/C=C/c3ccccc3)[n:10]2)c1>>Cc1ccc([N+](=O)[O-])cc1/C(=N/CCC[N:21](C)C)c1ccccc1.Nc1ccc2c(ccc(/C=C/c3ccccc3)[n+:10]2[H:20])c1 10=20;20,21=21",
"[O-]c1[nH]c2ccccc2[n+:21]1[H:20].[O-]c1ccc(CC[NH2:10])cc1>>[O-]c1[nH]c2ccccc2[n:21]1.[O-]c1ccc(CC[NH2+:10][H:20])cc1 10=20;20,21=21",
"CCOC(=O)c1ccc([O-:10])cc1.COC(=O)C(Cc1c[nH]cn1)[NH2+:21][H:20]>>CCOC(=O)c1ccc([O:10][H:20])cc1.COC(=O)C(Cc1c[nH]cn1)[NH2:21] 10=20;20,21=21",
"C1C[NH:10]C1.Clc1ccc[n+:21]([H:20])c1>>C1C[NH+:10]([H:20])C1.Clc1ccc[n:21]c1 10=20;20,21=21",
"C[n+]1ccc(-c2nc3ccccc3[n:21]2[H:20])cc1.O=C1C=C(c2ccc([O-:10])cc2)Oc2ccccc21>>C[n+]1ccc(-c2nc3ccccc3[n-:21]2)cc1.O=C1C=C(c2ccc([O:10][H:20])cc2)Oc2ccccc21 10=20;20,21=21",
"CCCCCCCC(=O)N[C@H]1C(=O)N2[C@H]1SC(C)(C)[C@H]2C(=O)[O:21][H:20].COc1cc(C[NH2:10])ccc1O>>CCCCCCCC(=O)N[C@H]1C(=O)N2[C@H]1SC(C)(C)[C@H]2C(=O)[O-:21].COc1cc(C[NH2+:10][H:20])ccc1O 10=20;20,21=21",
"CN1CC[NH:10]CC1.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CN1CC[NH+:10]([H:20])CC1.C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CCCCCC[NH:10]CCCCCC.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CCCCCC[NH+:10](CCCCCC)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"C[NH+:21](Cc1ccccn1)[H:20].NC(=S)C1([NH2:10])CCCCC1>>C[NH:21]Cc1ccccn1.NC(=S)C1([NH2+:10][H:20])CCCCC1 10=20;20,21=21",
"CCCCC1(CC)C(=O)[N-]C(=S)[N:21]([H:20])C1=O.Cc1c(C)c([O-:10])c(C)c(C)c1O>>CCCCC1(CC)C(=O)[N-]C(=S)[N-:21]C1=O.Cc1c(C)c([O:10][H:20])c(C)c(C)c1O 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1.C[NH:10]CCCNC(=O)/C=N/[O-]>>C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1.C[NH+:10](CCCNC(=O)/C=N/[O-])[H:20] 10=20;20,21=21",
"CC(C)(C[NH3+])[Se:21][H:20].CCc1cccc(C[N:10](C)C)c1O>>CC(C)(C[NH3+])[Se-:21].CCc1cccc(C[N+:10](C)(C)[H:20])c1O 10=20;20,21=21",
"CCCCNc1ncnc2c1cn[n-:10]2.O=[N+]([O-])c1cc[n+]([O:21][H:20])cc1>>CCCCNc1ncnc2c1cn[n:10]2[H:20].O=[N+]([O-])c1cc[n+]([O-:21])cc1 10=20;20,21=21",
"CC1=C(O)C(=[O:10])N(c2ccccc2)N1C.O=C1Cc2c1ccc([O:21][H:20])c2Br>>CC1=C(O)C(=[O+:10][H:20])N(c2ccccc2)N1C.O=C1Cc2c1ccc([O-:21])c2Br 10=20;20,21=21",
"CCc1cc2c(cc1[O:21][H:20])OC(=O)C=C2C.Oc1ccc(Cl)c2ccc[n:10]c12>>CCc1cc2c(cc1[O-:21])OC(=O)C=C2C.Oc1ccc(Cl)c2ccc[n+:10]([H:20])c12 10=20;20,21=21",
"COc1ccc([O-:10])c(CNC(CO)C(=O)[O-])c1.c1ccc2c[n+:21]([H:20])ncc2c1>>COc1ccc([O:10][H:20])c(CNC(CO)C(=O)[O-])c1.c1ccc2c[n:21]ncc2c1 10=20;20,21=21",
"Cc1cc(/N=N/c2nc3ccccc3s2)c2cccnc2c1[O-:10].N#Cc1ccc[n+:21]([H:20])c1>>Cc1cc(/N=N/c2nc3ccccc3s2)c2cccnc2c1[O:10][H:20].N#Cc1ccc[n:21]c1 10=20;20,21=21",
"C[NH+](C)CCC/[N:10]=C(/c1ccccc1)c1ccccc1-c1ccccc1.Cc1cccc(/N=N/c2ccc([N+:21](C)(C)[H:20])cc2)c1>>C[NH+](C)CCC/[N+:10](=C(/c1ccccc1)c1ccccc1-c1ccccc1)[H:20].Cc1cccc(/N=N/c2ccc([N:21](C)C)cc2)c1 10=20;20,21=21",
"FC(F)(F)c1ccc2ccc[n:10]c2c1.N#Cc1ccc(C(=O)[O:21][H:20])cc1>>FC(F)(F)c1ccc2ccc[n+:10]([H:20])c2c1.N#Cc1ccc(C(=O)[O-:21])cc1 10=20;20,21=21",
"CC(C)(C)C#CC(=O)[O:21][H:20].c1ccc(C2C[N:10]3CCC2CC3)cc1>>CC(C)(C)C#CC(=O)[O-:21].c1ccc(C2C[N+:10]3([H:20])CCC2CC3)cc1 10=20;20,21=21",
"O=[PH](C([NH2+]Cc1cc[nH+]cc1)c1ccccc1O)[O-:10].[NH3+]c1ccc(O)c([NH2+:21][H:20])c1>>O=[PH](C([NH2+]Cc1cc[nH+]cc1)c1ccccc1O)[O:10][H:20].[NH3+]c1ccc(O)c([NH2:21])c1 10=20;20,21=21",
"CC1CC[N:10](C(C)C=C(c2cccs2)c2cccs2)CC1.NCCCC[NH2+:21][H:20]>>CC1CC[N+:10](C(C)C=C(c2cccs2)c2cccs2)([H:20])CC1.NCCCC[NH2:21] 10=20;20,21=21",
"CNC(=O)C1CCCC[NH:10]1.O=C1CNC(=O)C(CCC(=O)[O:21][H:20])N1>>CNC(=O)C1CCCC[NH+:10]1[H:20].O=C1CNC(=O)C(CCC(=O)[O-:21])N1 10=20;20,21=21",
"Cc1c[n+:21]([H:20])c2c(cc(C)c3c(C)ccnc32)c1C.O=[N+]([O-])c1c(Cl)nc[n-:10]1>>Cc1c[n:21]c2c(cc(C)c3c(C)ccnc32)c1C.O=[N+]([O-])c1c(Cl)nc[n:10]1[H:20] 10=20;20,21=21",
"O=C([O-])C[NH+](CC(=O)[O-])Cc1[nH]c2ccccc2[n:10]1.O=[N+]([O-])c1cccc(S(=O)[O:21][H:20])c1>>O=C([O-])C[NH+](CC(=O)[O-])Cc1[nH]c2ccccc2[n+:10]1[H:20].O=[N+]([O-])c1cccc(S(=O)[O-:21])c1 10=20;20,21=21",
"Nc1ccc2c(c1)cc1ccc(N)cc1[n:10]2.OCC[N+:21]1([H:20])CC[NH2+]CC1>>Nc1ccc2c(c1)cc1ccc(N)cc1[n+:10]2[H:20].OCC[N:21]1CC[NH2+]CC1 10=20;20,21=21",
"C#CC[N+:21](C)(C)[H:20].Cc1nc(N)nc(N)[n:10]1>>C#CC[N:21](C)C.Cc1nc(N)nc(N)[n+:10]1[H:20] 10=20;20,21=21",
"Oc1ccccc1C[N:10]1CCOCC1.c1ccc2[nH+]c([S:21][H:20])ccc2c1>>Oc1ccccc1C[N+:10]1([H:20])CCOCC1.c1ccc2[nH+]c([S-:21])ccc2c1 10=20;20,21=21",
"Cn1cnc2c1C(=S)NC(=O)[N-:10]2.O=Cc1ccc([O:21][H:20])c(O)c1>>Cn1cnc2c1C(=S)NC(=O)[N:10]2[H:20].O=Cc1ccc([O-:21])c(O)c1 10=20;20,21=21",
